US07202369B2
3,4-Ethylenedioxythiophene-2,5-dicarboxylic acid (460 g) and a copper powder (46 g) were added to DMSO (1200 g) at room temperature. The reaction mixture was stirred under an oxygen atmosphere for 30 minutes at room temperature and then heated at 120° C. for 6 hours. The reaction mixture was then poured into ice water (1200 mL), and the crude product was extracted with ethyl acetate. After drying over anhydrous sodium sulfate, the solvent was removed by evaporation. The residue was vacuum-distilled at 30 mmHg to give 283 g of 3,4-ethylenedioxythiophene at high purity (99.7% or higher). The purity was confirmed by gas chromatographic analysis (compared to decane as an internal standard). The chemical structure was confirmed by mass analysis and 1H-NMR.

reactant | 3,4-Ethylenedioxythiophene-2,5-dicarboxylic acid | 460 g | C1OC2=C(SC(=C2OC1)C(=O)O)C(=O)O | C8H6O6S
catalyst | copper | 46 g | [Cu] | Cu
solvent | DMSO | 1200 g | CS(=O)C | C2H6OS
product | 3,4-ethylenedioxythiophene | 283 g | C1OC2=CSC=C2OC1 | C6H6O2S
